US08026370B2
1-(chloromethyl)-4-(ethoxymethyl)benzene
[4-(Ethoxymethyl)phenyl]methanol (1.52 g) synthesized in Reference Example 39 was dissolved in carbon tetrachloride (20 mL), triphenylphosphine (2.64 g) was added thereto, and the mixture was heated under reflux for 2.5 hr. The reaction mixture was concentrated under reduced pressure, the residue was dissolved in hexane, the insoluble material was filtered off, and the filtrate was evaporated under reduced pressure. The residue was purified by silica gel chromatography (elution solvent; hexane:ethyl acetate=20:1) to give the title compound (1.07 g) as a colorless oil.

reactant | [4-(Ethoxymethyl)phenyl]methanol | 1.52 g | C(C)OCC1=CC=C(C=C1)CO | C10H14O2
reactant | triphenylphosphine | 2.64 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | carbon tetrachloride | 20 mL | C(Cl)(Cl)(Cl)Cl | CCl4
product | 1-(chloromethyl)-4-(ethoxymethyl)benzene | 1.07 g | ClCC1=CC=C(C=C1)COCC | C10H13ClO
